US07449486B2
Step B: Preparation of 2-amino-1-(2-(3-azidopropyl)-5-(2,5-difluorophenyl)-2-phenyl-1,3,4-thiadiazol-3(2H)-yl)propan-1-one:
tert-Butyl 1-(2-(3-azidopropyl)-5-(2,5-difluorophenyl)-2-phenyl-1,3,4-thiadiazol-3 (2H)-yl)-1-oxopropan-2-ylcarbamate (70 mg, 0.131 mmol) was dissolved in 7.0 mL of EtOH. HCl (0.65 mL, 0.659 mmol) was then added and the reaction stirred at 23° C. for 4 hours. The reaction was then concentrated and purified by chromatography (2-10% MeOH/DCM), yielding the product (54 mg, 95%) as a yellow oil. MS ESI (+) m/z 431 (M+1) detected; 1H NMR (400 MHz, CD3OD) δ7.69 (m, 1H), 7.53 (d, 2H, J=8 Hz), 7.42 (t, 2H, J=7 Hz), 7.34 (m, 3H), 4.91 (m, 3H), 3.21 (m, 1H), 3.17 (m, 2H), 2.68 (m, 1H), 2.19 (m, 1 H), 1.99 (m, 1H), 1.73 (d, 1.5 H, J=8 Hz), 1.64 (d, 1.5 H, J=8 Hz).

reactant | tert-Butyl 1-(2-(3-azidopropyl)-5-(2,5-difluorophenyl)-2-phenyl-1,3,4-thiadiazol-3 (2H)-yl)-1-oxopropan-2-ylcarbamate | 0.131 mmol, 70 mg | N(=[N+]=[N-])CCCC1(SC(=NN1C(C(C)NC(OC(C)(C)C)=O)=O)C1=C(C=CC(=C1)F)F)C1=CC=CC=C1 | C25H28F2N6O3S
reactant | HCl | 0.659 mmol, 0.65 mL | Cl | ClH
solvent | EtOH | 7.0 mL | CCO | C2H6O
product | 2-amino-1-(2-(3-azidopropyl)-5-(2,5-difluorophenyl)-2-phenyl-1,3,4-thiadiazol-3(2H)-yl)propan-1-one | 54 mg, 95% | NC(C(=O)N1C(SC(=N1)C1=C(C=CC(=C1)F)F)(C1=CC=CC=C1)CCCN=[N+]=[N-])C | C20H20F2N6OS
